US05312929
Preparation of ethyl 2-(2-oxopropylamino)isobutyrate
430 g (2.56 mol) of ethyl 2-aminoisobutyrate hydrochloride was dissolved in 2 l of DMAc, and 652 g (6.46 mol) of triethylamine and 373 g (4.03 mol) of chloroacetone were added thereto. The mixture was stirred and reacted under nitrogen stream at 80° C. for 3 hours. After completion of the reaction, the reaction solution was poured into 20 l of ice water and extracted twice with 2 l of ethyl acetate. The extracted solution was treated by a conventional method to obtain 402 g (yield: 84%) of the desired product.

reactant | ethyl 2-aminoisobutyrate hydrochloride | 2.56 mol, 430 g | Cl.NC(C(=O)OCC)(C)C
reactant | triethylamine | 6.46 mol, 652 g | C(C)N(CC)CC | C6H15N
reactant | chloroacetone | 4.03 mol, 373 g | ClCC(C)=O | C3H5ClO
solvent | DMAc | 2 l | CC(=O)N(C)C | C4H9NO
product | ethyl 2-(2-oxopropylamino)isobutyrate | 402 g, yield: 84% | O=C(CNC(C(=O)OCC)(C)C)C | C9H17NO3
